US20010014689A1
A. 4-Bromo-5,6,7,8-tetrahydro-1-benzyloxynaphthalene
The above oil was dissolved in 100 mL acetonitrile, and treated with 3.57 mL (30 mmol) benzyl bromide and 5.53 g (40 mmol) potassium carbonate, then refluxed 14 hours. Thin layer chromatography (TLC) showed a major spot at Rf=0.3 in 10% methylene chloride/hexane (with benzyl bromide at Rf=0.4). The reaction was cooled, poured into dilute aqueous hydrochloric acid/ethyl acetate, and the organic layer separated, washed with water and brine, dried over sodium sulfate, and evaporated. The residue was chromatographed on silica gel using methylene chloride/hexane as eluant to afford 4.0 g (63%) of an oil. 1H-NMR (δ, CDCl3): 1.77 (m, 4H), 2.75 (m, 4H), 5.045 (s, 2H), 6.62 (d, J=9, 1H), 7.3-7.5 (m, 6H); 13C-NMR (δ, CDCl3): 22.2, 22.9, 24.0, 30.7, 69.9, 109.8, 116.7, 127.1, 127.9, 128.6, 129.1, 129.3, 137.2,137.5, 155.6.

reactant | benzyl bromide | 30 mmol, 3.57 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 40 mmol, 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid ethyl acetate | Cl.C(C)(=O)OCC
reactant | methylene chloride hexane | C(Cl)Cl.CCCCCC
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 4-Bromo-5,6,7,8-tetrahydro-1-benzyloxynaphthalene | 4.0 g, 63% | BrC1=CC=C(C=2CCCCC12)OCC1=CC=CC=C1 | C17H17BrO
